US08034812B2
Production of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanamide
Using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanamide (0.60 g, 1.82 mmol), N,N-dimethylformamide (6.0 mL), potassium carbonate (502 mg, 3.63 mmol) and 3-aminophenol (278 mg, 2.54 mmol) as starting materials and in the same manner as in Example 91, the title compound (0.26 g, 47%) was obtained as a dark brown powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylpropanamide | 1.82 mmol, 0.60 g | IC=1C=CC=2N(N1)C=C(N2)NC(C(C)C)=O | C10H11IN4O
reactant | potassium carbonate | 3.63 mmol, 502 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-aminophenol | 2.54 mmol, 278 mg | NC=1C=C(C=CC1)O | C6H7NO
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanamide | 0.26 g, 47% | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C(C)C)=O)C=CC1 | C16H17N5O2
